US03987105
m-Hydroxybenzaldehyde (32 g., 0.25 moles) methylene chloride (500 ml.), dimethoxymethane (100 ml., 1.13 moles), and p-toluenesulfonic acid monohydrate (250 mg.) were refluxed overnight under nitrogen using a Soxhlet extractor containing type 3A molecular sieves (150 g.). The reaction mixture was allowed to cool treated with triethylamine (2 ml.) to neutralize the acid catalyst and washed with 1N NaOH (2 × 200 ml.), water and dried (Na2SO4). Evaporation of solvent afforded a 28 g. residue, which after distillation, b.p. 92°-105° at 0.7 - 0.8 mm. gave 24.6 g. of m-methoxymethoxybenzaldehyde, (60% yield).

reactant | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | dimethoxymethane | 1.13 moles, 100 ml | COCOC | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 250 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | m-methoxymethoxybenzaldehyde | 60% yield | COCOC=1C=C(C=O)C=CC1 | C9H10O3
